US06380239B1
To a stirred solution of glutamic acid (10 mmol) and sodium carbonate (10.5 mmol) in water (50 mL) is added ethyl 4-nitro-1,3-dioxoisoindoline-2-carboxylate (10 mmol). The resulting mixture is stirred for 3 hours. The mixture is filtered. The filtrate is then acidified to pH 1 with 4 N hydrochloric acid to afford the 1-(4-nitro-1,3-dioxoisoindolin-2-yl)propane-1,3-dicarboxylic acid.

reactant | glutamic acid | 10 mmol | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | sodium carbonate | 10.5 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 4-nitro-1,3-dioxoisoindoline-2-carboxylate | 10 mmol | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)C(=O)OCC)=O | C11H8N2O6
solvent | water | 50 mL | O | H2O
product | 1-(4-nitro-1,3-dioxoisoindolin-2-yl)propane-1,3-dicarboxylic acid | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)C(CCC(=O)O)C(=O)O)=O | C13H10N2O8
